US08669234B2
Potassium carbonate (144 mg) was added to 2-(6-trimethylsilanylethynyl-1H-benzoimidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester (200 mg, 0.52 mmol) in 6 ml methanol. The reaction was stirred at room temperature for 2 hours. The reaction mixture was concentrated and purified by flash column chromatography (silica gel, 20 to 100% ethyl acetate/hexane) to give 2-(6-ethynyl-1H-benzoimidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester (121 mg, yield 75%). LCMS-ESI−: calc'd for C18H21N3O2: 311.38. Found: 311.8 (M+H+).

reactant | Potassium carbonate | 144 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(6-trimethylsilanylethynyl-1H-benzoimidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.52 mmol, 200 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C1=NC2=C(N1)C=C(C=C2)C#C[Si](C)(C)C | C21H29N3O2Si
solvent | methanol | 6 ml | CO | CH4O
product | 2-(6-ethynyl-1H-benzoimidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 121 mg, yield 75% | C(C)(C)(C)OC(=O)N1C(CCC1)C1=NC2=C(N1)C=C(C=C2)C#C | C18H21N3O2
